US07452880B2
To a solution of [3-chloro-5-(2,4-difluorophenoxyl)pyrazin-2-yl]-(2-chlorophenyl)methanone (0.73 g, 1.9 mmol, 1.0 eq) in ethanol was added hydrazine hydrate (0.19 mL, 3.8 mmol, 2.0 eq). The resulting mixture was refluxed under nitrogen for 0.5 hours. The reaction mixture was cooled and filtered to give 3-(2-chlorophenyl)-6-(2,4-difluorophenoxy)-1H-pyrazolo[3,4-b]pyrazine (0.285 g, 0.8 mmol, 42% yield) as a solid. MP=240.5-241.5° C. Mass spec., M+1=359.

reactant | [3-chloro-5-(2,4-difluorophenoxyl)pyrazin-2-yl]-(2-chlorophenyl)methanone | 1.9 mmol, 0.73 g, 1.0 eq | ClC=1C(=NC=C(N1)OC1=C(C=C(C=C1)F)F)C(=O)C1=C(C=CC=C1)Cl | C17H8Cl2F2N2O2
reactant | hydrazine hydrate | 3.8 mmol, 0.19 mL, 2.0 eq | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-chlorophenyl)-6-(2,4-difluorophenoxy)-1H-pyrazolo[3,4-b]pyrazine | 0.8 mmol, 0.285 g, 42% yield | ClC1=C(C=CC=C1)C1=NNC2=NC(=CN=C21)OC2=C(C=C(C=C2)F)F | C17H9ClF2N4O
